US06288096B1
A solution of 0.5 g (1.14 mmole) 5-(4-[2-(4-tert-butyloxycarbonylaminophenyl)ethoxy]benzylidene)thiazolidine-2,4-dione in ethyl acetate was hydrogenated in the presence of 5% palladium on charcoal at room temperature and atmospheric pressure until hydrogen uptake ceased. The solution was filtered through celite, the filter pad was washed with ethyl acetate and the filtrate was evaporated to give 0.5 g (yield 99%) of 5-(-[4-[2-(4-tert-butyloxycarbonylaminophenyl)ethoxy]phenyl]methyl)thiazolidine-2,4-dione.

reactant | 5-(4-[2-(4-tert-butyloxycarbonylaminophenyl)ethoxy]benzylidene)thiazolidine-2,4-dione | 1.14 mmole, 0.5 g | C(C)(C)(C)OC(=O)NC1=CC=C(C=C1)CCOC1=CC=C(C=C2C(NC(S2)=O)=O)C=C1 | C23H24N2O5S
reactant | hydrogen | [H][H] | H2
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | palladium on charcoal | [Pd] | Pd
product | 5-(-[4-[2-(4-tert-butyloxycarbonylaminophenyl)ethoxy]phenyl]methyl)thiazolidine-2,4-dione | 0.5 g, yield 99% | C(C)(C)(C)OC(=O)NC1=CC=C(C=C1)CCOC1=CC=C(C=C1)CC1C(NC(S1)=O)=O | C23H26N2O5S
